US06426345B1
A mixture of ethyl 4-cyclopentyloxy-3-methoxybenzoate (1.06 g) and 4N aqueous sodium hydroxide (4 ml) in ethanol (8 ml) and 1,4-dioxane (8 ml) was stirred at 80° C. for 3 hours. Then the mixture was poured into dilute hydrochloric acid and extracted with ethyl acetate. The organic solution was washed with dilute hydrochloric acid and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give 4-cyclopentyloxy-3-methoxybenzoic acid (730 mg).

reactant | ethyl 4-cyclopentyloxy-3-methoxybenzoate | 1.06 g | C1(CCCC1)OC1=C(C=C(C(=O)OCC)C=C1)OC | C15H20O4
reactant | sodium hydroxide | 4N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 4-cyclopentyloxy-3-methoxybenzoic acid | 730 mg | C1(CCCC1)OC1=C(C=C(C(=O)O)C=C1)OC | C13H16O4
